US09371290B2
Synthesis of 4-phenoxy-5-(1H-1,2,4-triazol-3-yl)-1-phenylpyridin-2(1H)-one (compound 34)
Preparation of N,N-dimethyl-N′-[(6-oxo-4-phenoxy-1-phenyl-1,6-dihydropyridin-3-yl)carbonyl]formamidine: A mixture of 6-oxo-4-phenoxy-1-phenyl-1,6-dihydropyridine-3-carboxamide (195 mg, 0.64 mmol) and N,N-dimethylformamide dimethyl acetal (270 mg, 2.3 mmol) was stirred at 120° C. for 90 min. Then the mixture was cooled down to room temperature and evaporated in vacuo. The residue was crystallized on treatment with Et2O (15 mL). The solid product was filtered and washed with Et2O (2×10 mL) to yield the title compound as beige crystals (190 mg, 82%).

reactant | N,N-dimethyl-N′-[(6-oxo-4-phenoxy-1-phenyl-1,6-dihydropyridin-3-yl)carbonyl]formamidine | CN(C=NC(=O)C1=CN(C(C=C1OC1=CC=CC=C1)=O)C1=CC=CC=C1)C | C21H19N3O3
reactant | 6-oxo-4-phenoxy-1-phenyl-1,6-dihydropyridine-3-carboxamide | 0.64 mmol, 195 mg | O=C1C=C(C(=CN1C1=CC=CC=C1)C(=O)N)OC1=CC=CC=C1 | C18H14N2O3
reactant | N,N-dimethylformamide dimethyl acetal | 2.3 mmol, 270 mg | COC(N(C)C)OC | C5H13NO2
product | 4-phenoxy-5-(1H-1,2,4-triazol-3-yl)-1-phenylpyridin-2(1H)-one | 190 mg, 82% | O(C1=CC=CC=C1)C1=CC(N(C=C1C1=NNC=N1)C1=CC=CC=C1)=O | C19H14N4O2
